US06756378B2
To a stirred solution of methyl 4-[N-Boc-5-(R)-methyl-2-(S)-pyrrolidinylmethoxy]benzoate (1.29 g, 3.70 mmol) in CH2Cl2 (30 ml) was added trifluoroacetic acid (10 ml) at rt, and the resulting mixture was stirred for 35 min. The mixture was concentrated in vacuo and poured into aq.NaHCO3, then extracted with CHCl3. The organic layer was washed with water, drying over anhydrous Na2SO4, and concentrated in vacuo to give methyl 4-[5-(R)-methyl-2-(S)-pirrolidinyl methoxy]benzoate (871 mg, 95%) as a colorless oil. The product was used for next reactions without further purification. 1H-NMR (CDCl3) δ1.18 (d, J=6.4 Hz, 3 H), 1.30-1.40 (m, 1 H), 1.59-1.67 (m, 1 H), 1.87-1.97 (m, 2 H), 3.19-3.27 (m, 1 H), 3.49-3.55 (m, 1 H), 3.87 (s, 3 H), 3.89-4.05 (m, 2 H), 6.89 (d, J=8.8 Hz, 2 H), 7.96 (d, J=8.8 Hz, 2 H); MS (ESI) m/z, 250 (M++H)

reactant | methyl 4-[N-Boc-5-(R)-methyl-2-(S)-pyrrolidinylmethoxy]benzoate | 3.70 mmol, 1.29 g | C(=O)(OC(C)(C)C)N1[C@@H](CC[C@H]1C)COC1=CC=C(C(=O)OC)C=C1 | C19H27NO5
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | methyl 4-[5-(R)-methyl-2-(S)-pirrolidinyl methoxy]benzoate | 871 mg, 95% | C[C@@H]1CC[C@H](N1)COC1=CC=C(C(=O)OC)C=C1 | C14H19NO3
